US06177423B1
4,7-Dichloro-2-hydroxy-6-(pyrrolidin-1-yl)benzo[de]isoquinoline-1,3-dione
A solution of 2-allyloxy-4,7-dichloro-6-(pyrrolidin-1-yl)benzo[de]isoquinoline-1,3-dione (0.5 g, 1.3 mmol, from Example J4) in trifluoroacetic acid (10 mL) was treated with boron tristrifluoroacetate (6 mL, 6.0 mmol, 1.0 M in trifluoroacetic acid). The reaction mixture was stirred at room temperature for 4 hours and evaporated in vacuo. The residue was chased with dichloro methane and redissolved in methanol which was also evaporated. The residue was partitioned between dichloromethane/water, separated, the organic layer dried, and evaporated in vacuo. The residue was triturated with petroleum ether, the solid removed by filtration, and dried in vacuo to give 0.2 g of the title compound, mp 243-245° C.

reactant | 2-allyloxy-4,7-dichloro-6-(pyrrolidin-1-yl)benzo[de]isoquinoline-1,3-dione | 1.3 mmol, 0.5 g | C(C=C)ON1C(C2=CC=C(C=3C2=C(C1=O)C(=CC3N3CCCC3)Cl)Cl)=O | C19H16Cl2N2O3
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4,7-Dichloro-2-hydroxy-6-(pyrrolidin-1-yl)benzo[de]isoquinoline-1,3-dione | 0.2 g | ClC1=CC(=C2C3=C1C(N(C(C3=CC=C2Cl)=O)O)=O)N2CCCC2 | C16H12Cl2N2O3
